US05735910
Preparation of 2-nitro-4-amino-5-(β-hydroxypropyl)thio-N-(methyl)aniline
11.5 g (0.057 mol) of 2-nitro-4-amino-5-chloro-N-(methyl)aniline and 7.8 g (0.085 mol) of 1-mercaptopropan-2-ol were used as the starting materials to give dark brown crystals (14.3 g) melting at 152° C. (recrystallization from 96° ethanol), whose elemental analysis calculated for C10H15N3O3S was:

reactant | 2-nitro-4-amino-5-chloro-N-(methyl)aniline | 0.057 mol, 11.5 g | [N+](=O)([O-])C1=C(NC)C=C(C(=C1)N)Cl | C7H8ClN3O2
reactant | 1-mercaptopropan-2-ol | 0.085 mol, 7.8 g | SCC(C)O | C3H8OS
product | 2-nitro-4-amino-5-(β-hydroxypropyl)thio-N-(methyl)aniline | 14.3 g | [N+](=O)([O-])C1=C(NC)C=C(C(=C1)N)SCC(C)O | C10H15N3O3S
